US06083961
To a suspension of lithium aluminum hydride (2.27 g) in tetrahydrofuran (50 ml) was added a suspension of ethyl N-(3-methoxy-2-nitrophenyl)carbamate (7.17 g) in tetrahydrofuran (15 ml) under ice-cooling, and the mixture was stirred for 1.5 hours at ambient temperature. Insoluble material was filtered off, and the filtrate was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1, v/v) to give 2-amino-3-methoxy-N-methylaniline (687 mg).

reactant | lithium aluminum hydride | 2.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl N-(3-methoxy-2-nitrophenyl)carbamate | 7.17 g | COC=1C(=C(C=CC1)NC(OCC)=O)[N+](=O)[O-] | C10H12N2O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-amino-3-methoxy-N-methylaniline | 687 mg | NC1=C(NC)C=CC=C1OC | C8H12N2O
